US04863925
2-[1,2,5-trimethyl-2,5-diaza-7,9-dithiabicyclo(4.3.0)-nonane-8-ylidene]-5,5-dimethyl-1,3-cyclohexanedione. (compound No. 12)
To this solution was added dropwise with ice-cooling 1.94 g (0.022 mole) of N,N'-dimethylethylenediamine and the mixture was stirred for 1 hour. Then to this solution was added with ice-cooling the dithiolate solution prepared in the manner shown below; To a mixture of 2.8 g (0.02 mole) of dimedone and 1.6 g (0.02 mole) of carbon disulfide in 15 ml of dimethylsulfoxide was added 2.7 g (0.044 mole) of powdered potassium hydroxide, and the mixture was stirred for one hour.

reactant | N,N'-dimethylethylenediamine | 0.022 mole, 1.94 g | CNCCNC | C4H12N2
reactant | dithiolate | S1SC(C=C1)C(=O)[O-]
reactant | dimedone | 0.02 mole, 2.8 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | carbon disulfide | 0.02 mole, 1.6 g | C(=S)=S | CS2
reactant | potassium hydroxide | 0.044 mole, 2.7 g | [OH-].[K+]
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 2-[1,2,5-trimethyl-2,5-diaza-7,9-dithiabicyclo(4.3.0)-nonane-8-ylidene]-5,5-dimethyl-1,3-cyclohexanedione | CC12N(CCN(C2SC(S1)=C1C(CC(CC1=O)(C)C)=O)C)C | C16H24N2O2S2
